US08461134B2
Pentan-3-yl 5-amino-2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)benzylcarbamate
To a solution of 4-amino-2-(aminomethyl)-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)benzenesulfonamide (500 mg, 0.89 mmol) and TEA (360 mg, 3.6 mmol) in THF (200 mL) at −20° C. was slowly added 3-pentyl chloroformate (147 mg, 0.89 mmol) in THF (10 mL). Then the mixture was stirred at room temperature for 2 hrs. The mixture was concentrated in vacuo and the residue was purified by prep-HPLC (column: Luna 300×50.0 mm, 10 u; liquid phase: [A-H2O+0.025% TFA; B-MeCN] B %: 17%-42%, 25 min) to give the title compound (230 mg, 43%) as TFA salt. 1H NMR: DMSO 400 MHz δ 9.97 (s, 1H), 7.53 (d, J=8.4 Hz, 1H), 7.35 (q, 1H), 7.20 (d, J=8.4 Hz, 1H), 7.11 (J=8.4 Hz, 1H), 6.47 (s, 1H), 6.35 (q, 1H), 4.88 (s, 2H), 4.50 (q, 3H), 1.50 (q, 4H), 0.84 (t, 6H).

reactant | 4-amino-2-(aminomethyl)-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)benzenesulfonamide | 0.89 mmol, 500 mg | NC1=CC(=C(C=C1)S(=O)(=O)NC=1C=CC2=C(B(OC2)O)C1)CN | C14H16BN3O4S
reactant | 3-pentyl chloroformate | 0.89 mmol, 147 mg | ClC(=O)OC(CC)CC | C6H11ClO2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | Pentan-3-yl 5-amino-2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)benzylcarbamate | 230 mg, 43% | NC=1C=CC(=C(CNC(OC(CC)CC)=O)C1)S(NC=1C=CC2=C(B(OC2)O)C1)(=O)=O | C20H26BN3O6S
